* Task 2: Startup verification — PVDD peak must be < 5.5V
* BVDD ramp 0-7V in 10us, avbg ramp 0-1.226V in 5u-10u
* SkyWater SKY130A

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Stimuli
Vbvdd bvdd 0 PWL(0 0 10u 7)
Vavbg avbg 0 PWL(0 0 5u 0 10u 1.226)
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 5000

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4

.ic V(pvdd)=0 V(bvdd)=0
.tran 1u 200u uic

.measure tran pvdd_peak MAX V(pvdd)

.control
tran 1u 200u uic
print pvdd_peak
quit
.endc

.end
